US07465836B2
1-(3-Chlorophenyl)-1,3-dihydrobenzo[c][1,2]oxaborole (12)
This was prepared as per the procedure in Example 11, from 2-(3-chlorophenyl)-[1,3,2]-dioxaborolane and 1-bromo-2-((methoxymethoxy)methyl)benzene to afford white crystalline product.

reactant | 2-(3-chlorophenyl)-[1,3,2]-dioxaborolane | ClC=1C=C(C=CC1)B1OCCO1 | C8H8BClO2
reactant | 1-bromo-2-((methoxymethoxy)methyl)benzene | BrC1=C(C=CC=C1)COCOC | C9H11BrO2
product | 1-(3-Chlorophenyl)-1,3-dihydrobenzo[c][1,2]oxaborole | ClC=1C=C(C=CC1)B1OCC2=C1C=CC=C2 | C13H10BClO
